US09079931B2
Preparation of (S)-1,2,3,4-tetrahydro-1-naphthol
To a 100 mL autoclave with a stirrer, RuCl[(R)-dm-segphos][(S)-daipen] obtained from Example 5 above (3.5 mg, 0.003 mol, 1/1,000 molar fold of 1-tetralone) were added. After purging with nitrogen, 2-propanol (3 mL), 1-tetralone (439 mg, 3 mmol) and 2-propanol solution of t-BuOK (0.1 mol/L, 0.3 mL, 0.03 mmol) were added. Subsequently, purging with hydrogen, the mixture was stirred at 25° C. for 15 hours under hydrogen pressure of 1 MPa. As a result of analysis of the reaction solution by using gas chromatography (Chirasil-DEX CB), it was found that the conversion rate is 99% or more and the optical purity is 96% ex.

reactant | 1-tetralone | C1(CCCC2=CC=CC=C12)=O | C10H10O
reactant | 1-tetralone | 3 mmol, 439 mg | C1(CCCC2=CC=CC=C12)=O | C10H10O
reactant | t-BuOK | 0.03 mmol, 0.1 mol/L, 0.3 mL | CC(C)(C)[O-].[K+]
solvent | 2-propanol | CC(C)O | C3H8O
solvent | 2-propanol | 3 mL | CC(C)O | C3H8O
product | (S)-1,2,3,4-tetrahydro-1-naphthol | [C@@H]1(CCCC2=CC=CC=C12)O | C10H12O
